US04021441
In the manner given in Example 32, 8-fluoro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, potassium iodide, and methylallylamine in tetrahydrofuran are reacted to give 8-fluoro-1-[(allylmethylamino)methyl]-6-(0-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 8-fluoro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl2FN4
reactant | potassium iodide | [I-].[K+]
reactant | methylallylamine | CC=CCN | C4H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 8-fluoro-1-[(allylmethylamino)methyl]-6-(0-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | FC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNCCC=C)C3=C(C=CC=C3)Cl)C1 | C21H19ClFN5
